* C:\Users\Vicente\OneDrive\Documentos\U\2021-1\ASTRONOMIA EXPERIMENTAL\tareas_astro_exp\astro_experimental\Tarea 3\circuitos\asc\circuito2.asc
V1 N002 0 SINE(0.2 0.2 1k) Rser=50
D1 N001 out 1N914
R1 out 0 1k
B1 N001 N002 V=white(-1e3*time)/10 + white(1e3*time)/10
.model D D
.lib C:\Users\Vicente\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.tran 0 .1 0
.backanno
.end
